US07626054B2
21 mg (0.54 mmol) of sodium hydroxide are added to a solution of 86 mg (0.18 mmol) of methyl (S)-2-cyclopropylmethoxy-3-[3′-(3-heptyl-1-methylureido)biphenyl-4-yl]propionate in 2 ml of 9/1 tetrahydrofuran/methanol. The reaction mixture is stirred at ambient temperature overnight. The reaction is halted by the addition of 2 ml of water and 0.5 ml of acetic acid, and then extraction is carried out with ethyl acetate. The organic phases are combined and dried over sodium sulfate. The solvents are evaporated and then the residue is chromatographed on silica gel (dichloromethane/methanol 90/10). 70 mg of 2(S)-cyclopropylmethoxy-3-[3′-(3-heptyl-1-methylureido)biphenyl-4-yl]propanoic acid are obtained in the form of an oil. Yield=84%.

reactant | sodium hydroxide | 0.54 mmol, 21 mg | [OH-].[Na+]
reactant | methyl (S)-2-cyclopropylmethoxy-3-[3′-(3-heptyl-1-methylureido)biphenyl-4-yl]propionate | 0.18 mmol, 86 mg | C1(CC1)CO[C@H](C(=O)OC)CC1=CC=C(C=C1)C1=CC(=CC=C1)N(C(=O)NCCCCCCC)C | C29H40N2O4
reactant | tetrahydrofuran methanol | O1CCCC1.CO
reactant | water | 2 ml | O | H2O
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
product | 2(S)-cyclopropylmethoxy-3-[3′-(3-heptyl-1-methylureido)biphenyl-4-yl]propanoic acid | 70 mg, Yield=84% | C1(CC1)CO[C@H](C(=O)O)CC1=CC=C(C=C1)C1=CC(=CC=C1)N(C(=O)NCCCCCCC)C | C28H38N2O4
